US08664258B2
Preparation of N-[4-(2-Amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide (Compound 322)
A mixture of N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide (0.5000 g, 1.161 mmol) and ammonia (0.2515 g, 11.62 mmol) in 20 mL of methanol were heated to 150° C. for 30 minutes under microwave irradiation in a heavy walled sealed tube. The reaction mixture was concentrated to produce the crude product that was subjected to purification on HPLC. The proper fractions were collected and lyophilized to afford the title compound as a white solid (TFA salt) in 53% yield. LCMS m/z (%)=367 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ 10.2 (s, 1H), 7.83 (dd, J1=2.53 and J2=8.89 Hz, 1H), 7.68 (d, J1=2.53 Hz, 1H), 7.53 (d, J1=8.08 Hz, 1H), 7.48 (m, 1H), 7.46 (d, J1=1.78 Hz, 1H), 7.43 (d, J1=8.08 Hz, 1H), 7.19-7.13, (m, 2H), 6.27 (d, J1=1.77 Hz, 1H), 3.95 (t, J1=5.80 Hz, 2H), 3.83 (s, 3H), 3.69 (s, 3H), 2.8 (t, J1=5.80 Hz, 2H).

reactant | N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide | 1.161 mmol, 0.5000 g | BrCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C | C20H20BrN3O3
reactant | ammonia | 11.62 mmol, 0.2515 g | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | N-[4-(2-Amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide | 53% yield | NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C | C20H22N4O3
